US09079909B2
Triphenylphosphine (160 mg, 0.62 mmol), imidazole (42 mg, 0.62 mmol) and iodine (160 mg, 0.62 mmol) were added to a solution of 2-(4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)ethanol (181 mg, 0.52 mmol) in CH2Cl2 (6 ml). After stirring at ambient temperature for 1 h the reaction was filtered and solvent removed in vacuo. Purification using chromatography (silica gel, gradient 10 to 60% ethyl acetate/isohexane) gave 4-chloro-1-(2-iodoethyl)-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine as a clear oil (202 mg) which was used as such in the subsequent step.

reactant | Triphenylphosphine | 0.62 mmol, 160 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 0.62 mmol, 42 mg | N1C=NC=C1 | C3H4N2
reactant | iodine | 0.62 mmol, 160 mg | II | I2
reactant | 2-(4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)ethanol | 0.52 mmol, 181 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CCO | C19H15ClN4O
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-1-(2-iodoethyl)-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | 202 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CCI | C19H14ClIN4
